US05616604
1, 2-dihydro-1-pyrrolizinone (1).
To a solution of 10 g N-cyanoethylpyrrole in 100 ml ether was added 2.5 g ZnCI2. Dried HCl was passed into the mixture at 5°-10° C. After 2 hours, the reaction mixture was allowed to stand at room temperature for 4 hours. Removed the solvent by suction, 20%. Aqueous NaOH was added until pH 3. The mixture was stirred at 80°-90° C. for 2 hours. Extracted with methylene chloride, dried over Na2SO4, evaporated the solvent, 8 g yellow solid was obtained. The crude product was crystallized from petroleum ether, 6.5 g compound (1) was obtained, as white crystals, mp 53°-54.5° C., yield 65%.

reactant | N-cyanoethylpyrrole | 10 g | C(#N)CCN1C=CC=C1 | C7H8N2
reactant | HCl | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
product | 1, 2-dihydro-1-pyrrolizinone | 8 g, yield 65% | C1(CCN2C=CC=C12)=O | C7H7NO
